US03975443
A mixture of 1-aminomethylcyclohexyldimethylamine (1.5 g), benzoyl chloride (3 ml) and pyridine (10 ml) was allowed to stand at room temperature for 1 hr. The crystalline mass was filtered and recrystallised several times from 95% ethanol to give colourless prisms of 1-benzamidomethylcyclohexyldimethylamine hydrochloride m.p. 245°-6° .

reactant | 1-aminomethylcyclohexyldimethylamine | 1.5 g | NCC1(CCCCC1)N(C)C | C9H20N2
reactant | benzoyl chloride | 3 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-benzamidomethylcyclohexyldimethylamine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)NCC1(CCCCC1)N(C)C | InChI=1S/C16H24N2O.ClH/c1-18(2)16(11-7-4-8-12-16)13-17-15(19)14-9-5-3-6-10-14;/h3,5-6,9-10H,4,7-8,11-13H2,1-2H3,(H,17,19);1H
